US07812020B2
4-(4,6-Dichloropyridin-2-yl)-morpholine
Morpholine (5.0 g) was added to a suspension of 2,4,6-trichloropyridine (10.0 g) and sodium carbonate (5.9 g) in acetonitrile (100 mL). The reaction mixture was then stirred at 70° C. for 16 hours, cooled to ambient temperature, filtered through celite and concentrated in vacuo. The crude product was subjected to flash chromatography (SiO2, heptane/ethylacetate 4:1) to furnish 3.90 g (30% yield) of the title compound as an off-white solid. LC-MS (m/z) 323.8 (M+); tR=3.10, (UV, ELSD) 98.5%, 98.9%. 1H NMR (500 MHz, CDCl3): 3.50 (m, 4H), 3.80 (m, 4H), 6.45 (s, 1H), 6.67 (s, 1H).

reactant | Morpholine | 5.0 g | N1CCOCC1 | C4H9NO
reactant | 2,4,6-trichloropyridine | 10.0 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
reactant | sodium carbonate | 5.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-(4,6-Dichloropyridin-2-yl)-morpholine | 3.90 g, 30% yield | ClC1=CC(=NC(=C1)Cl)N1CCOCC1 | C9H10Cl2N2O
